US06066739
Methyl (±)-4-[α-hydroxy-5-(1-imidazolyl)-2-methylbenzyl]-3,5-dimethylbenzoate (9.2 g) was suspended in dichloroethane (110 ml) and pyridine (3.15 ml), and a solution of (S)-2-(4-chlorobenzenesulfonylamino)propionyl chloride (8.9 g) in dichloroethane (25 ml) was added dropwise over 5 minutes with siring under ice-cooling. The mixture was sired at room temperature for 3 hours and the reaction mixture was washed successively with water, 5% citric acid, 5% potassium carbonate and water. The organic layer was separated and dried over magnesium sulfate. The solvent was evaporated under reduced pressure to give 15.7 g of methyl (±)-4-[5-(1-imidazolyl)-α-{(S)-2-(4-chlorobenzenesulfonylamino)propionyloxy}-2-methylbenzyl]-3,5-dimethylbenzoate as a pale-yellow oil. This was crystallized from ethyl acetate (27 ml) and isopropyl ether (108 ml) and the obtained crystals were recrystallized from ethyl acetate (15 ml) and isopropyl ether (30 ml) to give 5.2 g of methyl (S)-4-[5-(1-imidazolyl)-α-{(S)-2-(4-chlorobenzenesulfonylamino)propionyloxy}-2-methylbenzyl]-3,5-dimethylbenzoate as white crystals, melting point 126-128° C.

reactant | Methyl (±)-4-[α-hydroxy-5-(1-imidazolyl)-2-methylbenzyl]-3,5-dimethylbenzoate | 9.2 g | OC(C1=C(C=CC(=C1)N1C=NC=C1)C)C1=C(C=C(C(=O)OC)C=C1C)C | C21H22N2O3
reactant | (S)-2-(4-chlorobenzenesulfonylamino)propionyl chloride | 8.9 g | ClC1=CC=C(C=C1)S(=O)(=O)N[C@H](C(=O)Cl)C | C9H9Cl2NO3S
solvent | dichloroethane | 110 ml | ClC(C)Cl | C2H4Cl2
solvent | pyridine | 3.15 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloroethane | 25 ml | ClC(C)Cl | C2H4Cl2
product | methyl (±)-4-[5-(1-imidazolyl)-α-{(S)-2-(4-chlorobenzenesulfonylamino)propionyloxy}-2-methylbenzyl]-3,5-dimethylbenzoate | 15.7 g | N1(C=NC=C1)C=1C=CC(=C(C(OC([C@H](C)NS(=O)(=O)C2=CC=C(C=C2)Cl)=O)C2=C(C=C(C(=O)OC)C=C2C)C)C1)C | C30H30ClN3O6S
